US08871782B2
3-Chloroperoxybenzoic acid (50% pure, 1.8 g, 5.26 mmol) was added to a solution of 1-[3-(2-ethoxymethyl-1-propyl-1H-imidazo[4,5-c]quinolin-8-yloxy)propyl]-pyrrolidin-2-one (2.9 g, 5.26 mmol) in chloroform (50 mL). After 30 minutes, saturated aqueous sodium carbonate (20 mL) was added to the solution and the resulting mixture was allowed to stir for 1 hour. The layers were separated and the aqueous layer was extracted with chloroform (3×50 mL). The organic layers were combined, washed with water and saturated aqueous sodium chloride, dried over anhydrous sodium sulfate, filtered, and concentrated under reduced pressure. The crude product was purified by flash chromatography (silica gel, gradient elution with 1-4% methanol in dichloromethane) to yield 1.56 g of 1-(3-{[2-(ethoxymethyl)-5-oxido-1-propyl-1H-imidazo[4,5-c]quinolin-8-yl]oxy}propyl)pyrrolidin-2-one as a tan foam.

reactant | 3-Chloroperoxybenzoic acid | 5.26 mmol, 1.8 g | ClC=1C=C(C(=O)OO)C=CC1 | C7H5ClO3
reactant | 1-[3-(2-ethoxymethyl-1-propyl-1H-imidazo[4,5-c]quinolin-8-yloxy)propyl]-pyrrolidin-2-one | 5.26 mmol, 2.9 g | C(C)OCC=1N(C2=C(C=NC=3C=CC(=CC23)OCCCN2C(CCC2)=O)N1)CCC | C23H30N4O3
reactant | sodium carbonate | 20 mL | C([O-])([O-])=O.[Na+].[Na+]
solvent | chloroform | 50 mL | C(Cl)(Cl)Cl | CHCl3
product | 1-(3-{[2-(ethoxymethyl)-5-oxido-1-propyl-1H-imidazo[4,5-c]quinolin-8-yl]oxy}propyl)pyrrolidin-2-one | 1.56 g | C(C)OCC=1N(C2=C(C=[N+](C=3C=CC(=CC23)OCCCN2C(CCC2)=O)[O-])N1)CCC | C23H30N4O4
